US08497265B2
A mixture of (1-(5-bromo-4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-2-yl)piperidin-4-yl)methanol (see PREPARATION P7.1; 115 mg, 0.25 mmol) and wet Pd—C (50%, 50 mg) in MeOH (10 mL) was stirred under H2 (15 psi) at room temperature for 1.5 hours then the reaction mixture was filtered through CELITE® and washed with MeOH. The filtrate was concentrated in vacuo to give (1-(4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-2-yl)piperidin-4-yl)methanol (93 mg, 0.24 mmol, yield 96%). ESI-MS (M+1): 392 calc. for C22H25N5O2 391.

reactant | (1-(5-bromo-4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-2-yl)piperidin-4-yl)methanol | 0.25 mmol, 115 mg | BrC=1C(=NC(=NC1)N1CCC(CC1)CO)OC1CN(C1)C1=NC2=CC=CC=C2C=C1 | C22H24BrN5O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | (1-(4-((1-(quinolin-2-yl)azetidin-3-yl)oxy)pyrimidin-2-yl)piperidin-4-yl)methanol | 0.24 mmol, 93 mg, yield 96% | N1=C(C=CC2=CC=CC=C12)N1CC(C1)OC1=NC(=NC=C1)N1CCC(CC1)CO | C22H25N5O2
